data/pmechdb/original/mc_train_fold0/raw/train.txt
CCOC(=O)[CH:20](CCC[C:10](=[C:11]([O-:12])OCC)C#N)[Br:21]>>CCOC(=O)[CH:20]1CCC[C:10]1(C#N)[C:11](=[O:12])OCC.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][NH+:21](CC(OCC)OCC)C(COCC1=CC=CC=C1)C2=C3C(=C(C(=C2)OC)C)OCO3.C(=O)([O-:10])O[K].[K+].[Br-]>>[H:20][O:10]C(=O)O[K].CCOC(C[NH:21]C(COCC1=CC=CC=C1)C2=C3C(=C(C(=C2)OC)C)OCO3)OCC.[K+].[Br-] 10=20;20,21=21
[H:20][CH2:21][CH:22](CC)[N+:23](C)(C)C.[OH-:10]>>[H:20][OH:10].CC[CH:22]=[CH2:21].C[N:23](C)C 10=20;22,23=23;20,21=21,22
C=C1CCCC2C1CC[C:20](=[O:21])C2.C1CC[NH:10]C1.C1CC[NH2+]C1>>C=C1CCCC2C1CC[C:20](C2)([NH+:10]3CCCC3)[O-:21].C1CC[NH2+]C1 10=20;20,21=21
C[CH:20]=[O:21].C[C:11](=[CH2:10])[O-:12]>>C[CH:20]([CH2:10][C:11](=[O:12])C)[O-:21] 10,11=10,20;20,21=21;12=11
CCO[C:13]1=[C:12]([CH:11]=[CH:10]C=C1)Br.[Br:20][Br:21]>>CCO[C+:13]1C=C[CH:10]([CH:11]=[C:12]1Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][C:21]1(C=CC=C[C+:22]1CBr)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:22](=[C:21](C=C1)S(=O)(=O)O)CBr 10=20;20,21=21,22
[CH:11]1=[CH:10]OC(=C1)C(F)(F)F.O[S+:20](=O)=O>>C1=C(O[CH:10]([CH+:11]1)[S:20](=O)(=O)O)C(F)(F)F 10,11=10,20
[H:20][O:21]S(=O)(=O)O.CC1C([O:10]1)O>>[H:20][O+:10]1C(C1O)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
C(C1C(C(C([CH:20]([O:10]1)[OH2+:21])O)O)O)O.[Cl-]>>[CH:20]1=[O+:10]C(C(C(C1O)O)O)CO.[OH2:21].[Cl-] 10=20;20,21=21
[Li+].CCC1=C(C=CC(=C1)[CH:20](C(C)C)[OH2+:21])C.CCC(C)C(CCC1CCCC1)C(=O)[O-].[Br-]>>[Li+].CCC1=C(C=CC(=C1)[CH+:20]C(C)C)C.CCC(C)C(CCC1CCCC1)C(=O)[O-].[OH2:21].[Br-] 20,21=21
CC#[C-:10].C[C:20](=[O:21])OC>>CC#[C:10][C:20](C)([O-:21])OC 10=20;20,21=21
[H:20][C:21]1(SCCCS1)[Si](C)(C)C(C)(C)C.[Li:11][C:10](C)(C)C>>[H:20][C:10](C)(C)C.[Li+:11].CC(C)(C)[Si](C)(C)[C-:21]1SCCCS1 10,11=10,20;20,21=21
C[C:20](C1=CC=CC=C1)([O-:10])[O:21]C>>C[C:20](=[O:10])C1=CC=CC=C1.C[O-:21] 10=20;20,21=21
[H:20][O:21]C=O.C=CCCC1(C2=C(C=CC=C2)[N:10]=C1C3=C(C=CC=C3)Br)O>>[H:20][N+:10]1=C(C(C2=C1C=CC=C2)(CCC=C)O)C3=C(C=CC=C3)Br.C(=O)[O-:21] 10=20;20,21=21
CC(=O)O[C:20](=[O:21])C=C.[C-:10]#N>>CC(=O)O[C:20](C=C)([C:10]#N)[O-:21] 10=20;20,21=21
CO[C:20](=[O:21])OC.[Cl-:10]>>CO[C:20]([O-:21])(OC)[Cl:10] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1CC=CCO)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:22](=[C:21](C=C1)S(=O)(=O)O)CC=CCO 10=20;20,21=21,22
CO[C:20](=[O:21])N.[Cl-:10]>>CO[C:20](N)([O-:21])[Cl:10] 10=20;20,21=21
CCOC(=O)C(C(C(=O)C)C(=O)OCC)[C:20](=[O:21])C.[NH3:10].CO>>CCOC(=O)C(C(C(=O)OCC)[C:20](C)([NH3+:10])[O-:21])C(=O)C.CO 10=20;20,21=21
C[CH:20](C)[Cl:21].[C-:10]#N>>C[CH:20](C)[C:10]#N.[Cl-:21] 10=20;20,21=21
C[CH:20]([O-:10])[I:21]>>C[CH:20]=[O:10].[I-:21] 10=20;20,21=21
[H:20][O:21]C1(CCCCO1)N(C)CC=C.C[NH:10]CC=C>>[H:20][NH+:10](C)CC=C.CN(CC=C)C1(CCCCO1)[O-:21] 10=20;20,21=21
[H:20][O+:21]=C(CC#N)NCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNC(=[O:21])CC#N 10=20;20,21=21
CC1=CC=C(C=C1)[NH2:10].C1=CC2=C(C=C1)OC=C(C2=O)[CH:20]=[O:21].CC1=CC=C(C=C1)S(=O)(=O)O>>CC1=CC=C(C=C1)[NH2+:10][CH:20](C2=COC3=C(C2=O)C=CC=C3)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)O 10=20;20,21=21
C(C1C(C(C([CH:10](O1)[OH2+:11])O)O)O)O>>[CH+:10]1C(C(C(C(O1)CO)O)O)O.[OH2:11] 10,11=11
CCC(C)[O-:10].[O:21]=[S:20](Cl)Cl>>CCC(C)[O:10][S:20]([O-:21])(Cl)Cl 10=20;20,21=21
CCC(=O)O[C:11]1=[CH:10]C=CC=C1.C[CH+:20]C>>CCC(=O)O[C+:11]1C=CC=C[CH:10]1[CH:20](C)C 10,11=10,20
CNC=[N:10]C.C[Si:20](C)(C)Cl>>CNC=[N+:10](C)[Si-:20](C)(C)(C)Cl 10=20,
[H:20][O+:21]=C(C)OC1CC2CC(C(CC2(C3(C1)OCCO3)C)O)(C)O.C1=CC(=CC(=C1)C(=O)[O-:10])Cl>>[H:20][O:10]C(=O)C1=CC=CC(=C1)Cl.CC(=[O:21])OC1CC2CC(C(CC2(C3(C1)OCCO3)C)O)(C)O 10=20;20,21=21
[Li+:20].[Li]OC(C1=[C:10](C=CC=C1)[Br-:11]CCCC)C(C)(C)C=C2SCCCS2>>[Li:20][C:10]1=C(C=CC=C1)C(C(C)(C)C=C2SCCCS2)O[Li].CCCC[Br:11] 10,11=10,20
C1CO[C:20]([O:21]C1)(O)[O-:10]>>C(C[O-:21])CO[C:20](=[O:10])O 10=20;20,21=21
C[C:20]1([SH+:21]CC[S:10]1)C>>C[C:20](=[S+:10]CC[SH:21])C 10=20;20,21=21
[H:20][CH:21]1CCC=C[C:22]1=[O:23].C1CCC2=[N:10]CCCN2CC1.C1CCC(CC1)C=O>>[H:20][N+:10]1=C2CCCCCN2CCC1.C1C[CH:21]=[C:22](C=C1)[O-:23].C1CCC(CC1)C=O 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CC)S(C)(C)Cl.[Cl-:10]>>[H:20][Cl:10].CC[O:21]S(C)(C)Cl 10=20;20,21=21
[B:20](F)(F)F.CC(CC=CI)C=[O:10].CCOCC.CC=C(C(C)C(C(C)C1C(C(O[Si](O1)(C(C)C)C(C)C)C(C)CO[Si](C)(C)C(C)(C)C)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C>>[B-:20]([O+:10]=CC(C)CC=CI)(F)(F)F.CCOCC.CC=C(C(C)C(C(C)C1C(C(O[Si](O1)(C(C)C)C(C)C)C(C)CO[Si](C)(C)C(C)(C)C)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C 10=20,
C[OH+:11][Si-:10](C)(C)(C)Cl>>C[OH:11].C[Si:10](C)(C)Cl 10,11=11
CC[CH2:10][Cl+:11][Al-](Cl)(Cl)Cl>>CC[CH2+:10].[Al-](Cl)(Cl)(Cl)[Cl:11] 10,11=11
CCC1C=CC=CC(C(O1)CC=CC#C)[OH+:11][Si-:10](C)(C)(C(C)(C)C)F.CCCC[N+](CCCC)(CCCC)CCCC.CC(C)[Si](C(C)C)(C(C)C)F.[OH-]>>CCC1C=CC=CC(C(O1)CC=CC#C)[OH:11].CC(C)(C)[Si:10](C)(C)F.CCCC[N+](CCCC)(CCCC)CCCC.CC(C)[Si](C(C)C)(C(C)C)F.[OH-] 10,11=11
C1OC2=CC(=C(C=C2O1)I)CC[NH2+][S:20](=O)(C3=CC=CC=C3)([O-:10])[Cl:21].CCN(CC)CC>>C1OC2=CC(=C(C=C2O1)I)CC[NH2+][S:20](=O)(=[O:10])C3=CC=CC=C3.[Cl-:21].CCN(CC)CC 10=20;20,21=21
